US07612068B2
3-[2-(3-Fluoro-phenylsulfanyl)-phenyl]-propan-1-ol
LiAlH4 (46 mg, 1.22 mmol) was suspended in ether (1.7 mL). A solution of 3-[2-(3-fluoro-phenylsulfanyl)-phenyl]-propionic acid (2.6 g, 0.94 mmol) in ether (1.7 mL) was added slowly. The reaction was stirred for 4 h at room temperature. Excess LiAlH4 was hydrolysed with water. The mixture was made acidic using HCl (4N). Ether (20 mL) was added. The two phases were separated and the organic phase was washed with NaOH (2N) and then with water. The organic phase was dried (MgSO4), filtered and evaporated. Yield: 0.14 g, 55%.

reactant | LiAlH4 | 1.22 mmol, 46 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-[2-(3-fluoro-phenylsulfanyl)-phenyl]-propionic acid | 0.94 mmol, 2.6 g | FC=1C=C(C=CC1)SC1=C(C=CC=C1)CCC(=O)O | C15H13FO2S
reactant | water | O | H2O
reactant | HCl | 4N | Cl | ClH
solvent | ether | 1.7 mL | CCOCC | C4H10O
solvent | ether | 1.7 mL | CCOCC | C4H10O
solvent | Ether | 20 mL | CCOCC | C4H10O
product | 3-[2-(3-Fluoro-phenylsulfanyl)-phenyl]-propan-1-ol | FC=1C=C(C=CC1)SC1=C(C=CC=C1)CCCO | C15H15FOS
